US07268128B2
t-Butyl 2-(4-methylcyclohexylidene)hydrazinecarboxylate
To a 230 ml hexane solution of 23.6 ml (192 mmol) of 4-methylcyclohexanone, 25.5 g (192 mg) of t-butyl carbazate was added, followed by heating the mixture under reflux for 20 minutes. Then, the reaction mixture was brought to room temperature, and precipitated solids were collected by filtration to obtain 38.7 g (89%) of the captioned compound.

reactant | 4-methylcyclohexanone | 192 mmol, 23.6 ml | CC1CCC(CC1)=O | C7H12O
reactant | t-butyl carbazate | 25.5 g | C(NN)(=O)OC(C)(C)C | C5H12N2O2
solvent | hexane | 230 ml | CCCCCC | C6H14
product | t-Butyl 2-(4-methylcyclohexylidene)hydrazinecarboxylate | 38.7 g, 89% | CC1CCC(CC1)=NNC(=O)OC(C)(C)C | C12H22N2O2
